US08541419B2
Step 1: Synthesis of 2-(4-nitrophenyl)ethanimidamide hydrochloride
A suspension of (4-nitrophenyl)acetonitrile (4.86 g, 30.0 mmol) in ethanol (6 mL, 99 mmol) in a 250 mL round bottom flask was slowly treated at room temperature with 4N hydrochloric acid in dioxane (38 mL, 152 mmol) and stirred for 22 hours. After carefully removing the solvent under water aspirator vacuum at 40° C. the obtained wet pale yellow product was suspended in 21 mL ethanol. Then, a 7N ammonia solution in methanol (12 mL, 84 mmol) was slowly added giving a pale gray suspension. After stirring for two hours additional 2 mL (14 mmol) 7N ammonia solution in methanol were added. After further stirring for one hour at room temperature all volatiles were removed under water aspirator vacuum at 40° C. To remove residues of ethanol and dioxane methyl t-butyl ether (30 mL) was added and once more all volatiles were removed under water aspirator vacuum at 40° C. giving an off-white solid. The crude product was used without purification in the next step.

reactant | (4-nitrophenyl)acetonitrile | 30.0 mmol, 4.86 g | [N+](=O)([O-])C1=CC=C(C=C1)CC#N | C8H6N2O2
reactant | ethanol | 99 mmol, 6 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | dioxane | 152 mmol, 38 mL | O1CCOCC1 | C4H8O2
reactant | ammonia | 7N | N | H3N
reactant | ammonia | 14 mmol, 7N, 2 mL | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 84 mmol, 12 mL | CO | CH4O
product | 2-(4-nitrophenyl)ethanimidamide hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CC(N)=N | InChI=1S/C8H9N3O2.ClH/c9-8(10)5-6-1-3-7(4-2-6)11(12)13;/h1-4H,5H2,(H3,9,10);1H
